US06680329B2
68.0 ml (0.477 mol) of a solution of trifluoroacetic anhydride in 250 ml of dichloromethane are added dropwise at 0° C., under nitrogen, to a solution of 75.0 g (0.433 mol) of 5-bromo-2-pyridinamine and 41.25 ml (0.519 mol) of pyridine in 250 ml of dichloromethane. The mixture is allowed to warm gently to room temperature and stirring is continued for 18 hours. The reaction mixture is diluted with 300 ml of dichloromethane and is then washed with water (2×400 ml) and then in saturated sodium chloride solution (2×200 ml), after which it is dried over sodium sulphate and concentrated under reduced pressure. The residue obtained is purified by chromatography on a column of gel, eluting under pressure with a dichloromethane/pentane (1:1) mixture. 100 g of N-(5-bromopyrid-2-yl)-2,2,2-trifluoroacetamide are obtained in the form of a white solid.

reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 5-bromo-2-pyridinamine | 0.433 mol, 75.0 g | BrC=1C=CC(=NC1)N | C5H5BrN2
reactant | pyridine | 0.519 mol, 41.25 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | N-(5-bromopyrid-2-yl)-2,2,2-trifluoroacetamide | 100 g, Yield (%)=86 | BrC=1C=CC(=NC1)NC(C(F)(F)F)=O | C7H4BrF3N2O
